US06995161B2
A solution of {6-methoxy-5-[2-methoxy-4-(trifluoromethoxy)phenyl]pyrazin-2-yl}[(4-methoxyphenyl)methyl]amine (870 mg, 2.0 mmol) in chloroform (10 mL) is cooled to 0° C. and N-bromosuccinimide (356 mg, 2.0 mmol) is added in portions. After the addition, the mixture is further stirred for 1 h while being allowed to warm to room temperature. The mixture is washed with saturated aqueous sodium bicarbonate, aqueous sodium chloride, dried (magnesium sulfate), filtered, and evaporated to give {3-bromo-6-methoxy-5-[2-methoxy-4-(trifluoromethoxy)phenyl]pyrazin-2-yl }[(4-methoxyphenyl) methyl]amine (920 mg), a yellow solid.

reactant | {6-methoxy-5-[2-methoxy-4-(trifluoromethoxy)phenyl]pyrazin-2-yl}[(4-methoxyphenyl)methyl]amine | 2.0 mmol, 870 mg | COC1=C(N=CC(=N1)NCC1=CC=C(C=C1)OC)C1=C(C=C(C=C1)OC(F)(F)F)OC | C21H20F3N3O4
reactant | N-bromosuccinimide | 2.0 mmol, 356 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | {3-bromo-6-methoxy-5-[2-methoxy-4-(trifluoromethoxy)phenyl]pyrazin-2-yl }[(4-methoxyphenyl) methyl]amine | 920 mg | BrC=1C(=NC(=C(N1)C1=C(C=C(C=C1)OC(F)(F)F)OC)OC)NCC1=CC=C(C=C1)OC | C21H19BrF3N3O4
